US05866592
Methyl-N-(N-(4-(1-pyrrolidinoimidoyl)-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate
N-Boc-β-ethyl-α,α-dimethyl-β-alanine was condensed with 4-piperidineacetic acid methyl ester in the same manner as in Example 43 to yield N-(N-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid methyl ester. From the resulting compound, methyl-N-(N-(4-cyano-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate was derived in the same manner as in Example 45. The same procedure as in Example 45 was performed with this compound (1.0 g, 2.3 mmol) by using pyrrolidine (1.9 ml) as an amine to yield the titled compound (248 mg, 21%).

reactant | methyl-N-(N-(4-cyano-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | COC(CC1CCN(CC1)C(C(C(NC(C1=C(C=C(C=C1)C#N)F)=O)CC)(C)C)=O)=O | C23H30FN3O4
reactant | pyrrolidine | 1.9 ml | N1CCCC1 | C4H9N
product | Methyl-N-(N-(4-(1-pyrrolidinoimidoyl)-2-fluorobenzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 248 mg, 21% | COC(CC1CCN(CC1)C(C(C(NC(C1=C(C=C(C=C1)C(=N)N1CCCC1)F)=O)CC)(C)C)=O)=O | C27H39FN4O4
